* hardware/comms/design/ltspice_simulations/Filters/437MHz_BPF_2nd_order_chebyshev.asc
* Generated by LTspice 26.0.2 for MacOS.
C1 N002 n1 {Ccpl}
C2 N002 0 {Cres}
C4 out N003 {Ccpl}
L1 N002 0 {Lval} Rser={RsL} Cpar={Cp}
V1 N001 0 0 AC 1
R1 out 0 50
R2 n1 N001 50
L3 N003 0 {Lval} Rser={RsL} Cpar={Cp}
C3 N003 0 {Cres}
C5 N003 N002 1.6p
.ac dec 4000 100Meg 1000Meg
.param Lval=10n
.param Cres=8.2p
.param Ccpl=3.9p
.param Q=55
.param RsL={2*3.14159265*437e6*Lval/Q}
.param Cp=0.11p
.meas AC S21_peak MAX mag(2*V(out))
.meas AC f_center WHEN mag(2*V(out))=S21_peak
.meas AC IL_437 FIND mag(2*V(out)) AT 437Meg
.meas AC rej_fund FIND mag(2*V(out)) AT 145.67Meg
.meas AC rej_2nd FIND mag(2*V(out)) AT 291.3Meg
.meas AC rej_4th FIND mag(2*V(out)) AT 582.7Meg
.backanno
.end
